US05665746
To a suspension of 1.07 g of (R)-2-[2-amino-2-(3-methyl-1,2,4-oxadiazol-5-yl)-ethylsulfanylmethyl]-3-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-5-methoxy-6-methylbenzoic acid allyl ester and 0.96 g of trityloxy-acetic acid in 15 ml of acetonitrile, cooled to 0° C., were added 0.58 g of N-(dimethylamino-propyl)-N'-ethyl-carbodiimide hydrochloride. The mixture was stirred at 0° C. for 4 h, then diluted with 30 ml of ethyl acetate, and washed successively with 0.5N hydrochloric acid, water, 5% sodium bicarbonate solution, and brine. The organic layer was dried over sodium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel using ethyl acetate/hexane (1:1, v/v) as eluent to yield 1.42 g of (R)-3-[dimethyl-(1,1,2-trimethyl-propyl)silanyloxy]-5-methoxy-6-methyl-2-[2-(3-methyl-1,2,4-oxadiazol-5-yl)-2-(2-trityloxy-acetylamino]-ethylsulfanylmethyl]-benzoic acid allyl ester as a foam.

reactant | (R)-2-[2-amino-2-(3-methyl-1,2,4-oxadiazol-5-yl)-ethylsulfanylmethyl]-3-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-5-methoxy-6-methylbenzoic acid allyl ester | 1.07 g | C(C=C)OC(C1=C(C(=CC(=C1C)OC)O[Si](C(C(C)C)(C)C)(C)C)CSC[C@@H](C1=NC(=NO1)C)N)=O | C26H41N3O5SSi
reactant | trityloxy-acetic acid | 0.96 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCC(=O)O | C21H18O3
reactant | N-(dimethylamino-propyl)-N'-ethyl-carbodiimide hydrochloride | 0.58 g | Cl.CN(C)CCCN=C=NCC
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (R)-3-[dimethyl-(1,1,2-trimethyl-propyl)silanyloxy]-5-methoxy-6-methyl-2-[2-(3-methyl-1,2,4-oxadiazol-5-yl)-2-(2-trityloxy-acetylamino]-ethylsulfanylmethyl]-benzoic acid allyl ester | 1.42 g | C(C=C)OC(C1=C(C(=CC(=C1C)OC)O[Si](C(C(C)C)(C)C)(C)C)CSC[C@H](NC(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C1=NC(=NO1)C)=O | C47H57N3O7SSi
